US07217697B2
To a solution of 4-(2-hydroxybenzyl)-1-(2-hydroxyethyl)-5-isopropyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole (35 mg) in N,N-dimethylformamide (3 mL) were added benzyl bromide (20 mg) and potassium carbonate (18 mg), and the mixture was stirred at room temperature for 14 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=1/3—ethyl acetate) to give 4-(2-benzyloxybenzyl)-1-(2-hydroxyethyl)-5-isopropyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole (33 mg). To a solution of 4-(2-benzyloxybenzyl)-1-(2-hydroxyethyl)-5-isopropyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole (33 mg) in methanol (3 mL) was added sodium methoxide (28% methanol solution, 9 μL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (20 mg).

reactant | 4-(2-hydroxybenzyl)-1-(2-hydroxyethyl)-5-isopropyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | 35 mg | OC1=C(CC=2C(=NN(C2C(C)C)CCO)O[C@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)C=CC=C1 | C29H38N2O12
reactant | benzyl bromide | 20 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 18 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-(2-benzyloxybenzyl)-1-(2-hydroxyethyl)-5-isopropyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | 33 mg | C(C1=CC=CC=C1)OC1=C(CC=2C(=NN(C2C(C)C)CCO)O[C@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)C=CC=C1 | C36H44N2O12
